### PR TITLE
[Merged by Bors] - feat(List): permutations preserve maximum

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
and minimum.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/MinMax.lean [hunk 1]
```diff
@@ -446,6 +446,20 @@ theorem minimum_of_length_pos_le_getElem {i : ℕ} (w : i < l.length) (h := (Nat
...
 
+theorem Perm.maximum_eq {l l' : List α} (h : l ~ l') :
+    l.maximum = l'.maximum := by
+  by_cases he : l' = []
+  · simp_all
+  have hm : ∃ m : α, l'.maximum = m := Option.ne_none_iff_exists'.mp <| maximum_ne_bot_of_ne_nil he
+  obtain ⟨m, hm⟩ := hm
+  rw [hm, maximum_eq_coe_iff]
+  rw [maximum_eq_coe_iff] at hm
+  exact ⟨(mem_iff h).mpr hm.1, fun _ ha ↦ hm.2 _ <| (mem_iff h).mp ha⟩
```
Comment (robin-carlier) [inline Mathlib/Data/List/MinMax.lean]:
```suggestion
  induction h with grind [maximum_cons]
```
`grind` is a blessing for this kind of things

(Though, it does makes the proof implicitly dependent on choice, perhaps for a simple property like this might not be desirable. So feel free to ignore if you want).

File: Mathlib/Data/List/MinMax.lean [hunk 2]
```diff
@@ -446,6 +446,20 @@ theorem minimum_of_length_pos_le_getElem {i : ℕ} (w : i < l.length) (h := (Nat
...
+
+theorem Perm.minimum_eq {l l' : List α} (h : l ~ l') :
+    l.minimum = l'.minimum :=
+  @Perm.maximum_eq αᵒᵈ _ _ _ h
```
Comment (robin-carlier) [inline Mathlib/Data/List/MinMax.lean]: I think there is an ongoing effort of reducing defeq abuses with `ᵒᵈ`. Given that there is a one-line grind proof, might as well redo it here:

```suggestion
    l.minimum = l'.minimum := by
  induction h with grind [minimum_cons]
```

**Review by robin-carlier — COMMENTED** [review]
I think there is an opportunity for `grind` golfing here

File: Mathlib/Data/List/MinMax.lean (hunk 1 above)
Comment (Rida-Hamadani) [reply Mathlib/Data/List/MinMax.lean]: This is pretty cool, thank you!
